US09029392B2
A suspension of 8-chloro-2-(pyridin-3-yl)-1,4-dihydroquinoline-3-carboxylic acid ethyl ester (10.7 g, 34 mmol) in chlorobenzene (60 mL) was treated with MnO2 (10 g) and the mixture was heated to 60° C. for 3 h. The mixture was filtered through a celite plug and concentrated in vacuo. The residue was washed with diethyl ether to give 8-chloro-2-(pyridin-3-yl)quinoline-3-carboxylic acid ethyl ester (8.4 g, 79%) as a white solid. δH (CDCl3) 8.96 (d, J 1.7 Hz, 1H), 8.83 (s, 1H), 8.75 (dd, J 5.0, 1.1 Hz, 1H), 8.27 (dt, J 7.9, 1.7 Hz, 1H), 8.00 (dd, J 7.5, 1.0 Hz, 1H), 7.92 (dd, J 8.2, 1.0 Hz, 1H), 7.60 (m, 2H), 4.32 (q, J 7.1 Hz, 2H), 1.24 (t, J 7.1 Hz, 3H). LCMS (ES+) 313.2 (M+H)+.

reactant | 8-chloro-2-(pyridin-3-yl)-1,4-dihydroquinoline-3-carboxylic acid ethyl ester | 34 mmol, 10.7 g | C(C)OC(=O)C1=C(NC2=C(C=CC=C2C1)Cl)C=1C=NC=CC1 | C17H15ClN2O2
solvent | chlorobenzene | 60 mL | ClC1=CC=CC=C1 | C6H5Cl
catalyst | MnO2 | 10 g | O=[Mn]=O
product | 8-chloro-2-(pyridin-3-yl)quinoline-3-carboxylic acid ethyl ester | 8.4 g, 79% | C(C)OC(=O)C=1C(=NC2=C(C=CC=C2C1)Cl)C=1C=NC=CC1 | C17H13ClN2O2
